US04507141
10 g (0.2 mol) of methylmercaptan were introduced into a solution of 0.5 g (9 millimol) of sodium methylate in 300 ml of ethanol. 47 g (0.16 mol) of 1-(4-chloro-phenyl)-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-pent-1-en-3-one (E isomer) were introduced into this solution. The initially clear solution soon changed to a thick crystal slurry. The crystals were filtered off, washed with diisopropyl ether and with ethanol, and dried. 36 g (66.6% of theory) of 1-(4-chlorophenyl)-4,4-dimethyl-1-methylthio-2-(1,2,4-triazol-1-yl)-pentan-3-one of melting point 145° C. were obtained.

reactant | methylmercaptan | 0.2 mol, 10 g | CS | CH4S
reactant | 1-(4-chloro-phenyl)-4,4-dimethyl-2-(1,2,4-triazol-1-yl)-pent-1-en-3-one | 0.16 mol, 47 g | ClC1=CC=C(C=C1)C=C(C(C(C)(C)C)=O)N1N=CN=C1 | C15H16ClN3O
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | sodium methylate | 9 millimol, 0.5 g | C[O-].[Na+]
product | 1-(4-chlorophenyl)-4,4-dimethyl-1-methylthio-2-(1,2,4-triazol-1-yl)-pentan-3-one | 36 g, 66.6% | ClC1=CC=C(C=C1)C(C(C(C(C)(C)C)=O)N1N=CN=C1)SC | C16H20ClN3OS
